US06747023B1
4-[4-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]phenyl]-1-methylpyridinium iodide
In a mixed solvent of benzene (10 ml) and methanol (10 ml), 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[4-(pyridin-4-yl)benzoyl]piperazine (300 mg) obtained in Example A-1 was dissolved at room temperature, followed by the addition of methyl iodide (1 ml). To the resulting mixture, the same amount of methyl iodide was added three times at intervals of 24 hours, followed by heating under reflux for 4 days. The reaction mixture was distilled under reduced pressure and the residue was washed with methanol, collected by filtration and dried, whereby the title compound (229 mg, 58%) was obtained as a yellow solid.

reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-4-[4-(pyridin-4-yl)benzoyl]piperazine | 300 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C26H22ClN3O3S
reactant | methyl iodide | 1 ml | CI | CH3I
solvent | methanol | 10 ml | CO | CH4O
product | 4-[4-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]phenyl]-1-methylpyridinium iodide | 229 mg, 58% | [I-].ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=CC=[N+](C=C1)C | InChI=1S/C27H25ClN3O3S.HI/c1-29-12-10-21(11-13-29)20-2-4-22(5-3-20)27(32)30-14-16-31(17-15-30)35(33,34)26-9-7-23-18-25(28)8-6-24(23)19-26;/h2-13,18-19H,14-17H2,1H3;1H/q+1;/p-1
